US05206235
Step F: N-Chlorosulfonyl-4,4-dimethylazetidin-2-one
To a 3-neck 12 L flask equipped with an overhead stirrer, a 250 mL addition funnel topped with a nitrogen inlet and a rubber septum to allow a temperature probe and isobutylene needle was charged 450 mL of isobutylene. The flask was cooled in a dry ice-acetone bath. Ethyl ether (450 mL) was added and the resulting solution at -60° C. was treated with 210 mL (2.41 mol) of chlorosulfonyl isocyanate over 5 minutes at a rate so as to maintain the internal temperature below -50° C. The mixture was stirred at -50° C. to -62° C. for 30 minutes then allowed to warm slowly to room temperature and treated with 2250 mL of ether. The resulting solution was treated with 750 mL of 10% aqueous sodium carbonate slowly in 3 portions. The mixture was transferred into a 4 L separatory funnel and the aqueous layer removed. The organic layer was washed with 500 mL of water, then removed and treated with 750 mL of hexane. As crystallization began, additional hexane (250 mL) was added and the mixture concentrated under partial vacuum to a final volume of 3100 mL. The solid that formed was removed by filtration with the aid of 200 mL of hexane for rinsing. After air drying, the wet cake was dried under vacuum at 40° C. overnight to give 253 g (1.28 mol, 53%) of product as a pale yellow crystalline solid. Recycling of the mother liquors gave an additional 100 g (19%) of product as a white crystalline solid. 1H NMR (250 MHz, CDCl3): 1.89 (s,6H), 3.05 (s,2H).

reactant | isobutylene | CC(C)=C | C4H8
reactant | isobutylene | 450 mL | CC(C)=C | C4H8
reactant | chlorosulfonyl isocyanate | 2.41 mol, 210 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium carbonate | 750 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 2250 mL | CCOCC | C4H10O
solvent | Ethyl ether | 450 mL | C(C)OCC | C4H10O
product | N-Chlorosulfonyl-4,4-dimethylazetidin-2-one | 1.28 mol, 253 g, 53% | ClS(=O)(=O)N1C(CC1(C)C)=O | C5H8ClNO3S
